US07335687B2
70 mg (0.17 mmol) trans-N-Methyl-N-[4-(4-oxo-pentyloxy)-cyclohexyl]-4-trifluoromethyl-benzenesulfonamide were treated with 31 μM (30% in ethanol, 0.17 mmol) dimethylamine and 61 μM (0.17 mmol) tetraisopropyl orthotitanate. The solution was stirred at RT for 18 h, additional 31 μM (30% in ethanol, 0.17 mmol) dimethylamine and 61 μM (0.17 mmol) tetraisopropyl orthotitanate were added and stirring was continued for 2 h. The mixture was diluted with 1.7 ml ethanol and 7 mg (0.1 mmol) NaCNBH3 were added, and stirring was continued over night. 0.35 ml water was added and the suspension filtered and evaporated. The residue was purified by column chromatography with CH2Cl2/MeOH 9:1 to give 13.2 mg (18%) trans-N-[4-(4-Dimethylamino-pentyloxy)-cyclohexyl]-N-methyl-4-trifluoromethyl-benzenesulfonamide as colorless oil, MS: 451 (MH+).

reactant | trans-N-Methyl-N-[4-(4-oxo-pentyloxy)-cyclohexyl]-4-trifluoromethyl-benzenesulfonamide | 0.17 mmol, 70 mg | CN(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)[C@@H]1CC[C@H](CC1)OCCCC(C)=O | C19H26F3NO4S
reactant | dimethylamine | 0.17 mmol, 31 μM | CNC | C2H7N
reactant | dimethylamine | 0.17 mmol, 31 μM | CNC | C2H7N
reactant | NaCNBH3 | 0.1 mmol, 7 mg | [BH3-]C#N.[Na+]
reactant | water | 0.35 ml | O | H2O
solvent | ethanol | 1.7 ml | C(C)O | C2H6O
catalyst | tetraisopropyl orthotitanate | 0.17 mmol, 61 μM | CC(C)[O-].CC(C)[O-].CC(C)[O-].CC(C)[O-].[Ti+4]
catalyst | tetraisopropyl orthotitanate | 0.17 mmol, 61 μM | CC(C)[O-].CC(C)[O-].CC(C)[O-].CC(C)[O-].[Ti+4]
product | trans-N-[4-(4-Dimethylamino-pentyloxy)-cyclohexyl]-N-methyl-4-trifluoromethyl-benzenesulfonamide | 13.2 mg, 18% | CN(C(CCCO[C@@H]1CC[C@H](CC1)N(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C)C)C | C21H33F3N2O3S
